US07259262B2
A suspension of 5.59 g (25 mmol) 4-chloromethyl-2-(4-methoxy-phenyl)-oxazole, 2.59 g (37.5 mmol) 1H-[1,2,3]triazole, 0.41 g (2.5 mmol) potassium iodide and 1.5 g (37.5 mmol) sodium hydroxide (NaOH) in 50 ml 2-methyl-2-butanol was stirred at 120° C. for 5 h. After evaporation, the residue was quenched with water and extracted with ethyl acetate. The extract was dried, concentrated and purified on silica. Elution with ethyl acetate yielded 4.1 g (64%) 1-[2-(4-methoxy-phenyl)-oxazol-4-ylmethyl]-1H-[1,2,3]triazole as white crystals, melting at 126-127° C.

reactant | 4-chloromethyl-2-(4-methoxy-phenyl)-oxazole | 25 mmol, 5.59 g | ClCC=1N=C(OC1)C1=CC=C(C=C1)OC | C11H10ClNO2
reactant | 1H-[1,2,3]triazole | 37.5 mmol, 2.59 g | N1N=NC=C1 | C2H3N3
reactant | potassium iodide | 2.5 mmol, 0.41 g | [I-].[K+]
reactant | sodium hydroxide | 37.5 mmol, 1.5 g | [OH-].[Na+]
solvent | 2-methyl-2-butanol | 50 ml | CC(C)(CC)O | C5H12O
product | 1-[2-(4-methoxy-phenyl)-oxazol-4-ylmethyl]-1H-[1,2,3]triazole | 4.1 g, 64% | COC1=CC=C(C=C1)C=1OC=C(N1)CN1N=NC=C1 | C13H12N4O2
